US07625887B2
tert-butyl 3-{[6-(4-fluorophenyl)-2,3-dihydropyrido[3,2-f][1,4]oxazepin-4(5H)-yl]carbonyl}benzylcarbamate
To a solution of 6-(4-fluorophenyl)-2,3,4,5-tetrahydropyrido[3,2-f][1,4]oxazepine (0.20 g) obtained in Reference Example 13C, 1-hydroxy-1H-benzotriazole (0.15 g), triethylamine (0.083 g) and 3-(tert-butoxycarbonylaminomethyl)benzoic acid (0.205 g) in acetonitrile (10 ml) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.314 g), and the mixture was stirred at room temperature for 20 hrs. Ethyl acetate was added to the reaction mixture, and the mixture was washed with water, and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was purified by silica gel column chromatography to give the title compound (0.35 g) as a colorless amorphous powder.

reactant | 6-(4-fluorophenyl)-2,3,4,5-tetrahydropyrido[3,2-f][1,4]oxazepine | 0.20 g | FC1=CC=C(C=C1)C1=CC=NC2=C1CNCCO2 | C14H13FN2O
reactant | 1-hydroxy-1H-benzotriazole | 0.15 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-(tert-butoxycarbonylaminomethyl)benzoic acid | 0.205 g | C(C)(C)(C)OC(=O)NCC=1C=C(C(=O)O)C=CC1 | C13H17NO4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.314 g | Cl.C(C)N=C=NCCCN(C)C
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.083 g | C(C)N(CC)CC | C6H15N
product | tert-butyl 3-{[6-(4-fluorophenyl)-2,3-dihydropyrido[3,2-f][1,4]oxazepin-4(5H)-yl]carbonyl}benzylcarbamate | 0.35 g | FC1=CC=C(C=C1)C1=CC=NC2=C1CN(CCO2)C(=O)C=2C=C(CNC(OC(C)(C)C)=O)C=CC2 | C27H28FN3O4
